US05849735
N-[5-[(5,11-Dihydro-10H-dibenz[b,e][1,4]diazepin-10-yl)carbonyl]-2-pyridinyl]-2-methylfurane-3-carboxamide
As described for Example 20, 5,11-dihydro-10H-dibenz[b,e][1,4]diazepine is reacted with 6-[(2-methyl-3-furanylcarbonyl)amino]-3-pyridinecarbonyl chloride to give the product as a solid.

reactant | 5,11-dihydro-10H-dibenz[b,e][1,4]diazepine | C1=CC=CC=2NC3=C(NCC21)C=CC=C3 | C13H12N2
reactant | 6-[(2-methyl-3-furanylcarbonyl)amino]-3-pyridinecarbonyl chloride | CC=1OC=CC1C(=O)NC1=CC=C(C=N1)C(=O)Cl | C12H9ClN2O3
product | N-[5-[(5,11-Dihydro-10H-dibenz[b,e][1,4]diazepin-10-yl)carbonyl]-2-pyridinyl]-2-methylfurane-3-carboxamide | C1=CC=CC=2NC3=C(N(CC21)C(=O)C=2C=CC(=NC2)NC(=O)C2=C(OC=C2)C)C=CC=C3 | C25H20N4O3
